US05380724
1-[2-(2-Naphthyloxy)acetyl]-4-[2,6-di(1-pyrrolidinyl)-4-pyrimidinyl]homopiperazine
To a solution of 2-(2-naphthyloxy)acetic acid (1.1 g, 5.0 mmol) in anhydrous tetrahydrofuran (25 ml) carbonyl-diimidazole (0.80 g, 5.0 mmol) was added in portions, under stirring at room temperature. After 15 minutes a solution of 1-[2,6-di(1-pyrrolidinyl)-4-pyrimidinyl]homopiperazine (1.58 g, 5.0 mmol) in anhydrous tetrahydrofuran (15 ml) was added dropwise. The mixture was stirred at room temperature for 8 hours and the solvent was distilled off under reduced pressure. The residue was dissolved in methylene chloride, the solution was washed three times with water, dried over MgSO4 and concentrated. The obtained crude product was chromatographed over a silica gel column eluting with a 1:2 mixture of benzene and ethyl acetate to afford 0.7 g of the title compound, yield: 28%, mp. 103°-110° C.

reactant | 2-(2-naphthyloxy)acetic acid | 5.0 mmol, 1.1 g | C1=C(C=CC2=CC=CC=C12)OCC(=O)O | C12H10O3
reactant | 1-[2,6-di(1-pyrrolidinyl)-4-pyrimidinyl]homopiperazine | 5.0 mmol, 1.58 g | N1(CCCC1)C1=NC(=CC(=N1)N1CCNCCC1)N1CCCC1 | C17H28N6
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mmol, 25 ml, 0.80 g | O1CCCC1 | C4H8O
product | 1-[2-(2-Naphthyloxy)acetyl]-4-[2,6-di(1-pyrrolidinyl)-4-pyrimidinyl]homopiperazine | 0.7 g, yield: 28% | C1=C(C=CC2=CC=CC=C12)OCC(=O)N1CCN(CCC1)C1=NC(=NC(=C1)N1CCCC1)N1CCCC1 | C29H36N6O2
